US09340506B2
2-(4-cyclopropylsulfonylphenyl)-2-tetrahydropyran-4-yloxy-N-[5-(2H-tetrazol-5-yl)-2-pyridyl]acetamide
The mixture of N-(5-cyano-2-pyridyl)-2-(4-cyclopropylsulfonylphenyl)-2-tetrahydropyran-4-yloxy-acetamide (0.1 g, 0.22 mmol), sodium azide (0.03 g, 0.453 mmol) and ammonium chloride (0.024 g, 0.453 mmol) in DMF (8 mL) was heated at 110° C. for 16 h. After completion, reaction mixture was diluted with water (40 mL) and extracted with ethyl acetate (2×50 mL), combined organic layer was washed with water and brine, dried over sodium sulfate, filtered and concentrated in vacuo. Crude compound was purified by LCMS purification to afford title compound. (0.020 g).

reactant | N-(5-cyano-2-pyridyl)-2-(4-cyclopropylsulfonylphenyl)-2-tetrahydropyran-4-yloxy-acetamide | 0.22 mmol, 0.1 g | C(#N)C=1C=CC(=NC1)NC(C(OC1CCOCC1)C1=CC=C(C=C1)S(=O)(=O)C1CC1)=O | C22H23N3O5S
reactant | sodium azide | 0.453 mmol, 0.03 g | [N-]=[N+]=[N-].[Na+]
reactant | ammonium chloride | 0.453 mmol, 0.024 g | [Cl-].[NH4+]
solvent | DMF | 8 mL | CN(C)C=O | C3H7NO
solvent | water | 40 mL | O | H2O
product | 2-(4-cyclopropylsulfonylphenyl)-2-tetrahydropyran-4-yloxy-N-[5-(2H-tetrazol-5-yl)-2-pyridyl]acetamide | C1(CC1)S(=O)(=O)C1=CC=C(C=C1)C(C(=O)NC1=NC=C(C=C1)C=1N=NNN1)OC1CCOCC1 | C22H24N6O5S
